US06767906B2
A flask is charged with 12.15 g (30.57 mmol) of trans-4-[9-ethyl-6-(4-nitro-phenylamino)-9H-purin-2-yl-amino]-cyclohexanol in 1.15 l of methanol and kept under argon. At 40° C. Raney-Nickel is added slowly, followed by dropwise addition of 15.04 ml (50.06 mmol) of hydrazine monohydrate. After completion the reaction mixture is filtered, the filtrate concentrated and the crude product is purified by chromatography to obtain trans-4-[6-(4-amino-phenyl-amino)-9-ethyl-9H-purin-2-yl-amino]-cyclohexanol (74% yield); ESI-MS: 368 (M+H)+; tRet (HPLC) 7.48 min (method: same system as in method d, gradient 5®40% acetonitrile in 7,5 min.+12 min. 40% acetonitrile).

reactant | trans-4-[9-ethyl-6-(4-nitro-phenylamino)-9H-purin-2-yl-amino]-cyclohexanol | 30.57 mmol, 12.15 g | C(C)N1C2=NC(=NC(=C2N=C1)NC1=CC=C(C=C1)[N+](=O)[O-])N[C@@H]1CC[C@H](CC1)O | C19H23N7O3
reactant | hydrazine monohydrate | 50.06 mmol, 15.04 ml | O.NN
solvent | methanol | 1.15 l | CO | CH4O
catalyst | Raney-Nickel | [Ni] | Ni
product | trans-4-[6-(4-amino-phenyl-amino)-9-ethyl-9H-purin-2-yl-amino]-cyclohexanol | 74% yield | NC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N[C@@H]1CC[C@H](CC1)O)CC | C19H25N7O
